US04423076
1-Isopentyl-3-(2-Chloroethyl) Urea.
Isopentylamine (8.7 g, 0.1 mol) was dissolved in 100 ml of anhydrous ether and cooled to less than 10° C. 2-Chloroethyl isocyanate (10.5 g, 0.1 mol) was dissolved in 20 ml of ether and added to the rapidly stirring reaction mixture at less than 10° C. Stirring continued 1 hr. longer and the preciptiate was filtered and washed with four 20 ml portions of chilled ether. After drying in vacuo overnight, 16.5 g (85%) of product obtained as a white powder, MP 58°-9° C. IR analysis showed peaks at 1620/cm (C=O) and 1575/cm (N--C=O). NMR showed a doublet (6H, J=7 Hz) at 0.9 ppm, a triplet (2H, J=7 Hz) at 1.4 ppm, a multiplet (1H) at 1.8 ppm, a multiplet (1H) at 3.2 ppm, a multiplet (4H) at 3.6 ppm, a singlet ( 1H) at 5.7 ppm, and a singlet (1H) at 6.0 ppm.

reactant | Isopentylamine | 0.1 mol, 8.7 g | C(CC(C)C)N | C5H13N
reactant | 2-Chloroethyl isocyanate | 0.1 mol, 10.5 g | ClCCN=C=O | C3H4ClNO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-Isopentyl-3-(2-Chloroethyl) Urea | C(CC(C)C)NC(=O)NCCCl | C8H17ClN2O
